Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:
===========================
___ h/o astrocytoma s/p subtotal resection ___ presenting
with L shoulder and side pain. He flew from ___ to ___ (15
hours) and then ___ to ___ (6 hours), arriving yesterday 
around
5:30pm. About ___ hours into the ___ to ___, he 
began
to experience L shoulder and side pain. He thought he may have
pulled a muscle. He took Voltaren and Paracetamol for the pain,
which provided some relief. He was able to get to sleep but woke
up around 2 AM this morning with worsening pain. 

He states that the L shoulder pain is searing, deep within the
anterolateral aspect of the shoulder, and was radiating down his
arm earlier this morning, when it was a ___. It is now a ___.
The L side pain is sharp and a ___. The pain is felt in a
circular area centered just below the rib cage. In general, his
pain is worse with inspiration and lying down, and improved with
standing up. The pain comes on in waves. He experiences SOB when
seated. 

He lives in ___ and is here on vacation. He has a paddle
relay race in ___ in ~2 weeks. 

He states that he experiences similar shoulder pain after 
running
___ kilometers that improves with rest and has been ongoing 
for
years. 

Denies ___ edema, erythema, or pain. Denies DOE, CP, dizziness,
lightheadedness, syncope, diaphoresis, fever, chills, HA,
weakness, vision changes, hearing changes, slurred speech. 
Denies
use of blood thinners or aspirin. 

- In the ED, initial vitals were: 97.7 T, 51 HR, 145/75 BP, 16
RR, 100% RA
- Exam was notable for: lungs CTAB, no ___ extremity
cyanosis/clubbing/edema, hemodynamic stability
- Labs were notable for:  elevated d-dimer (913)
- Studies were notable for: RLL subsegmental pulmonary embolism,
small subpulmonic L pleural effusion, LLL atelectasis,
heterogenous hypodensity with associated calcifications in R
thyroid lobe
- The patient was given: IV heparin
- Social work was consulted for financial concerns

On arrival to the floor, patient was doing well. He was
ambulatory and in no apparent distress. The patient confirmed 
the
above history. 

 
Past Medical History:
- Astrocytoma s/p subtotal resection ___: diagnosed in ___
but was present in imaging following ___ in ___ followed by
neurologist with imaging every 6 months, most recently ___ with
stable tumor
- Subarachnoid hemorrhage in ___

 
Social History:
___
Family History:
No history of DVT/PE, cancer, clotting or bleeding disorders
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
======================== 
VITALS: 97.7 T, 150/89 BP, 48 HR, 20 RR, 98% RA     
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical or supraclavicular lymphadenopathy. 
CARDIAC: Regular rhythm, bradycardia. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Non-tender to deep palpation in all four quadrants.
EXTREMITIES: No ___ edema. 
NEUROLOGIC: CN2-12 grossly intact. Moving all 4 limbs
spontaneously.

Discharge Physical Exam
VITALS: ___ 0718 Temp: 97.6 PO BP: 145/82 R Lying HR: 44 
RR:
18 O2 sat: 97% O2 delivery: Ra    
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical or supraclavicular lymphadenopathy. 
CARDIAC: Regular rhythm, bradycardia. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Non-tender to deep palpation in all four quadrants.
EXTREMITIES: No ___ edema. 
NEUROLOGIC: CN2-12 grossly intact. Moving all 4 limbs
spontaneously.

 
Pertinent Results:
Admit Labs

___ 10:30AM BLOOD WBC-6.6 RBC-4.61 Hgb-14.2 Hct-41.6 MCV-90 
MCH-30.8 MCHC-34.1 RDW-12.5 RDWSD-41.4 Plt ___
___ 10:30AM BLOOD Neuts-63.8 ___ Monos-10.3 Eos-1.7 
Baso-0.2 Im ___ AbsNeut-4.24 AbsLymp-1.57 AbsMono-0.68 
AbsEos-0.11 AbsBaso-0.01
___ 10:30AM BLOOD Plt ___
___ 10:45AM BLOOD ___ PTT-27.5 ___
___ 10:30AM BLOOD D-Dimer-913*
___ 10:30AM BLOOD Glucose-149* UreaN-16 Creat-1.0 Na-142 
K-4.0 Cl-103 HCO3-25 AnGap-14
___ 10:30AM BLOOD ALT-18 AST-25 AlkPhos-68 TotBili-0.6
___ 10:30AM BLOOD cTropnT-<0.01
___ 10:30AM BLOOD Albumin-4.3
___ 04:57AM BLOOD Calcium-9.6 Phos-3.6 Mg-2.1

Imaging

___ u/s: No DVT

CTA Chest
FINDINGS:  
  
HEART AND VASCULATURE: Filling defect is demonstrated in a 
subsegmental 
pulmonary artery of the right lower lobe (series 2: Image 
100-102).  There is 
no surrounding pulmonary parenchymal changes.  No right heart 
strain.  
Otherwise, pulmonary vasculature is well opacified to the 
subsegmental level.  
The thoracic aorta is normal in caliber without evidence of 
dissection or 
intramural hematoma.  No pericardial effusion is seen. 
  
AXILLA, HILA, AND MEDIASTINUM: No axillary, mediastinal, or 
hilar 
lymphadenopathy is present.  No mediastinal mass. 
  
PLEURAL SPACES: There is a subpulmonic small left pleural 
effusion and left 
lower lobe atelectasis.  No pneumothorax. 
  
LUNGS/AIRWAYS: Lungs are clear without masses or areas of 
parenchymal 
opacification.  The airways are patent to the level of the 
segmental bronchi 
bilaterally. 
  
BASE OF NECK: Hypodensity of the right thyroid lobe that may 
measure up to 2.5 
cm in greatest dimension and with associated calcification is 
incompletely 
characterized on this exam (series 3: Image 20), but of concern. 

  
ABDOMEN:  Included portion of the upper abdomen is unremarkable. 

  
BONES: No suspicious osseous abnormality is seen.? There is no 
acute fracture. 
  
  
IMPRESSION: 
  
  
1. Filling defect in subsegmental pulmonary artery of the right 
lower lobe 
(series 2: Image 100 through 102) consistent with subsegmental 
pulmonary 
embolism.  No evidence of right heart strain or pulmonary 
infarct. 
2. Subpulmonic small left pleural effusion and left lower lobe 
atelectasis. 
3. Heterogeneous hypodensity in the right thyroid lobe that 
measures up to 2.5 
cm in greatest dimension and has associated calcification, 
incompletely 
characterized on this exam, but of concern.  Recommend nonurgent 
thyroid 
ultrasound. 
  
RECOMMENDATION(S): 
-Nonurgent ultrasound follow-up for hypodensity in right lobe of 
the thyroid. 
- Thyroid nodule.  Ultrasound follow up recommended. 
___ College of Radiology guidelines recommend further 
evaluation for 
incidental thyroid nodules of 1.0 cm or larger in patients under 
age ___ or 1.5 
cm in patients age ___ or ___, or with suspicious findings. 
  
Suspicious findings include: Abnormal lymph nodes (those 
displaying 
enlargement, calcification, cystic components and/or increased 
enhancement) or 
invasion of local tissues by the thyroid nodule. 
  
___, et al, "Managing Incidental Thyroid Nodules Detected on 
Imaging: White 
Paper of the ACR Incidental Findings Committee". J ___ 
___ ___ 
12:143-150. 

CT Head
=-======

FINDINGS:  
  
Right parietal craniotomy is noted with underlying hypodensity 
in the left 
temporal lobe, presumably from prior resection.  There is no 
intra-axial or 
extra-axial hemorrhage, mass effect, midline shift, or acute 
major vascular 
territorial infarct. Gray-white matter differentiation is 
preserved. 
Ventricles and sulci and unremarkable.  Basilar cisterns are 
patent. 
  
Scattered mucosal thickening seen the maxillary sinuses and 
ethmoid air cells. 
Included paranasal sinuses and mastoids are otherwise clear.  
Skull and 
extracranial soft tissues are unremarkable. 
  
IMPRESSION:  
  
No acute intracranial process, no hemorrhage. 
Postsurgical changes noted on the right with a right parietal 
craniotomy with 
underlying right temporal lobe hypodensity, presumably 
postsurgical.  MRI 
would be more sensitive for detection of recurrent/residual 
intracranial 
metastasis. 

Dispo Labs
------------

___ 04:57AM BLOOD WBC-7.4 RBC-4.55* Hgb-13.9 Hct-40.7 
MCV-90 MCH-30.5 MCHC-34.2 RDW-12.5 RDWSD-41.3 Plt ___
___ 10:30AM BLOOD Neuts-63.8 ___ Monos-10.3 Eos-1.7 
Baso-0.2 Im ___ AbsNeut-4.24 AbsLymp-1.57 AbsMono-0.68 
AbsEos-0.11 AbsBaso-0.01
___ 04:57AM BLOOD Plt ___
___ 04:57AM BLOOD ___ PTT-30.0 ___
___ 10:30AM BLOOD D-Dimer-913*
___ 04:57AM BLOOD Glucose-98 UreaN-13 Creat-1.0 Na-140 
K-4.4 Cl-104 HCO3-25 AnGap-___ y/o male w/ h/o astrocytoma s/p subtotal resection ___ 
presenting with L lateral thorax pleuritic pain and L shoulder 
pain found to have RLL subsegmental pulmonary embolism, small 
subpulmonic L pleural effusion, and LLL atelectasis.

Transitional Issues
-------------------
[] Discharged on rivaroxaban for atleast 6 month course, only 
given 1month of pills. 
[] Patient will require follow up with hematology/oncology 
within the next two months
[]Hypodensity of the right thyroid lobe ~2.5 cm in greatest 
dimension and with associated calcification is incompletely 
characterized on CTA, of concern. Please evaluate this thyroid 
nodule.
[]LLL atelectasis and small pleural effusion. Recommend eval w/ 
CXR for interval change at next appointment.

Acute Issues Addressed 
======================
#R Subsegmental Pulmonary Embolism
He developed L lateral thorax pleuritic pain and L shoulder pain
___ hours into a long flight. He has no R-sided pain despite a
right-sided PE. Despite having L-sided, pain, no explanation 
other than R-sided PE. PESI class III given points for cancer, 
age, gender. RLL subsegmental pulmonary embolism. No vital sign 
changes or evidence of right heart strain. Started on 
rivaroxaban 15 bid x21 days and then 20mg daily for atleast 6 
months. Will need f/u within one month for refilling rx. B/L ___ 
U/S negative for DVT.

Ultimately, favor treating this as a unprovoked PE because 
though symptoms assc w/ plane ride, they started three hours 
into the flight. Given non-modifiable risk factor of 
astrocytoma, recommend lifelong treatment, though this deserves 
conversation w/ patient's PCP/hemeonc etc. 

#L Pulmonary Effusion
#LLL Atelectasis
CTA Chest shows a subpulmonic small left pleural effusion and
left lower lobe atelectasis. Possibly explained by other clots 
not visualized on CTA. 

#Thyroid nodule
Incidental finding. 2.5 cm hypodensity. Recommend non-urgent 
outpatient follow up
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Rivaroxaban 15 mg PO BID 
RX *rivaroxaban [___] 15 mg (42)- 20 mg (9) 15 mg by mouth 
twice a day Disp #*1 Dose Pack Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary
-------
Subsegmental Pulmonary embolus
Left pulmonary effusion
Left lower atelectasis
thyroid nodule

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,  
 
It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
- You were admitted for a blood clot in your lungs.  
 
What was done for me while I was in the hospital?  
- We started you on a blood thinner medication.

What should I do when I leave the hospital?  
- It is very important that you take your new medications as 
prescribed. You will have to set up your own follow-up within 
one month.
- You will need to follow up with your primary care provider, as 
outlined below. 
- While anticoagulated, avoid contact sports, but you will be 
okay to compete in your upcoming event and travel. Take care to 
ambulate often while on the flight and consider wearing 
compression stockings while on the flight. 
- Enjoy the game.

Sincerely,  
Your ___ Care Team  

 
Followup Instructions:
___